US07560558B2
Compound 442: 3-(7-Benzyloxy-6-methoxy-quinolin-4-yloxy)-5,6,6′-trimethyl-[2,2′]bipyridine
5,6,6′-Trimethyl-[2,2′]bipyridin-3-ol (300 mg), 7-benzyloxy-4-chloro-6-methoxyquinoline (1.26 g), 4-dimethylaminopyridine (513 mg), and cesium carbonate (1.37 g) were suspended in dimethyl sulfoxide (6 ml), and the suspension was stirred at 130° C. overnight. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with chloroform. The chloroform layer was washed with saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using chloroform-methanol to give the title compound (483 mg, yield 72%).

reactant | 5,6,6′-Trimethyl-[2,2′]bipyridin-3-ol | 300 mg | CC=1C=C(C(=NC1C)C1=NC(=CC=C1)C)O | C13H14N2O
reactant | 7-benzyloxy-4-chloro-6-methoxyquinoline | 1.26 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)Cl)OC | C17H14ClNO2
reactant | cesium carbonate | 1.37 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 513 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethyl sulfoxide | 6 ml | CS(=O)C | C2H6OS
product | 3-(7-Benzyloxy-6-methoxy-quinolin-4-yloxy)-5,6,6′-trimethyl-[2,2′]bipyridine | 483 mg, yield 72% | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC=1C(=NC(=C(C1)C)C)C1=NC(=CC=C1)C)OC | C30H27N3O3
